US08198466B2
Preparation of [7-hydroxy-6-methoxy-3(3,4,5-trimethoxy-benzoyl)-benzofuran-2-ylamino]-acetic acid
A mixture of 2-bromo-7-acetoxy-3-(3,4,5-trimethoxybenzoyl)-6-methoxy-benzofuran (50 mg, 0.10 mmol), glycine (18 mg, 0.29 mmol) and potassium carbonate (29 mg, 0.21 mmol) in a mixture of MeCN/water 80:20 (5 mL) was refluxed for six hours. Solvent was distilled and the residue was taken in water:dichloromethane 1:2 (30 mL) and stirred for 20 minutes. Aqueous layer was separated, washed with dichloromethane (20 mL) and acidified with 2 drops of concentrated HCl and was diluted with dichloromethane (50 mL) and was stirred for 30 minutes. The organic layer was separated and dried over magnesium sulfate and solvent was distilled to afford the title compound as yellow powder (23 mg, 51%); 1H NMR (300 MHz, Acetone d6) δ 9.09(b, 1H, NH), 6.97(s, 2H, benzoyl Hs), 6.74(d, 1H, J=8.53 Hz), 6.45(d, 1H, J=8.48 Hz), 4.48(d, 2H, J=4.28 Hz), 3.82(s, 6H, 2×OMe), 3.79(s, 3H, OMe), 3.78(s, 3H, OMe).

reactant | 2-bromo-7-acetoxy-3-(3,4,5-trimethoxybenzoyl)-6-methoxy-benzofuran | 0.10 mmol, 50 mg | BrC=1OC2=C(C1C(C1=CC(=C(C(=C1)OC)OC)OC)=O)C=CC(=C2OC(C)=O)OC | C21H19BrO8
reactant | glycine | 0.29 mmol, 18 mg | NCC(=O)O | C2H5NO2
reactant | potassium carbonate | 0.21 mmol, 29 mg | C([O-])([O-])=O.[K+].[K+]
solvent | MeCN water | 5 mL | CC#N.O
product | [7-hydroxy-6-methoxy-3(3,4,5-trimethoxy-benzoyl)-benzofuran-2-ylamino]-acetic acid | 23 mg, 51% | OC1=C(C=CC=2C(=C(OC21)NCC(=O)O)C(C2=CC(=C(C(=C2)OC)OC)OC)=O)OC | C21H21NO9
